US04180394
A solution of phenol (2.3 g, 0.025 mole) and triethylamine (3.49 ml, 0.025 mole) in 50 ml. of ether was added to a solution of ethyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate (8.25 g, 0.025 mole) in 150 ml. of ether at 0° C. After two hours, the solution was filtered and the filtrate was added to a cooled (0° C.) solution of N-aminopiperidine (5.2 ml, 0.05 mole) in 100 ml. of ether. The resulting solution was stirred at 25° C. for 16 hours, then filtered. The filtrate was washed with 0.3% hydrochloric acid, dried over sodium sulfate and concentrated in vacuo to afford ethyl N-trifluoroacetyl-N-(phenoxy(N-piperidinoamino)phosphonomethyl)glycinate which could not be further purified by any means.

reactant | phenol | 0.025 mole, 2.3 g | C1(=CC=CC=C1)O | C6H6O
reactant | triethylamine | 0.025 mole, 3.49 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate | 0.025 mole, 8.25 g | FC(C(=O)N(CC(=O)OCC)CP(=O)(OCl)OCl)(F)F | C7H9Cl2F3NO6P
reactant | N-aminopiperidine | 0.05 mole, 5.2 ml | NN1CCCCC1 | C5H12N2
solvent | ether | CCOCC | C4H10O
product | ethyl N-trifluoroacetyl-N-(phenoxy(N-piperidinoamino)phosphonomethyl)glycinate | FC(C(=O)N(CC(=O)OCC)C(P(=O)(ONN1CCCCC1)O)OC1=CC=CC=C1)(F)F | C18H25F3N3O7P
